US08729105B2
Preparation of (R)-5-(4-chlorophenyl)-6-(tetrahydrofuran-3-yloxy)-N-((3-(trifluoromethyl)-1,2,4-oxadiazol-5-yl)methyl)nicotinamide
The title compound was synthesized in analogy to Example 1 using (R)-5-(4-chlorophenyl)-6-(tetrahydrofuran-3-yloxy)nicotinic acid (example CJ) and 3-trifluoromethyl-[1,2,4]oxadiazol-5-methanamine (example AK) as starting materials; LC-MS (UV peak area/ESI) 94.6%, 469.1 (M+H)+.

reactant | (R)-5-(4-chlorophenyl)-6-(tetrahydrofuran-3-yloxy)nicotinic acid | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)O)C1)O[C@H]1COCC1 | C16H14ClNO4
reactant | 3-trifluoromethyl-[1,2,4]oxadiazol-5-methanamine | FC(C1=NOC(=N1)CN)(F)F | C4H4F3N3O
product | (R)-5-(4-chlorophenyl)-6-(tetrahydrofuran-3-yloxy)-N-((3-(trifluoromethyl)-1,2,4-oxadiazol-5-yl)methyl)nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)NCC2=NC(=NO2)C(F)(F)F)C1)O[C@H]1COCC1 | C20H16ClF3N4O4
